US07678798B2
(2S)-1-Benzyl-2-methylpiperazine
tert-Butyl (3S)-3-methylpiperazine-1-carboxylate (380.0 g, 1.897 mol) and benzyl bromide (248 mL, 2.09 mol) were mixed in acetonitrile (440 mL). Triethylamine (300.0 mL, 2.152 mol) was carefully added and the mixture was refluxed overnight. After the mixture was cooled down to room temperature, the solid was filtered out. The filtrate was concentrated. The residue was combined with the solid and dissolved in methylene chloride. The methylene chloride solution was washed with 1N NaOH and dried over magnesium sulfate. After the solvent was removed, the residue was directly treated with 6 N HCl at 0° C., and 3 hours later, the solution was basified by slowly adding solid sodium hydroxide. The resulting mixture was extracted with methylene chloride and the extracts were dried over magnesium sulfate. After removal of the solvent, 330 g (91.4%) of product was obtained. The product was used directly for next step. 1H NMR (400 MHz, CDCl3) δ (ppm) 7.30 (m, 5H), 4.05 (d, 1H), 3.15 (d, 1H), 2.92 (m, 1H), 2.83 (m, 2H), 2.67 (m, 1H), 2.60 (m, 1H), 2.38 (m, 1H), 2.36 (bs, 2H), 2.06 (m, 1H), 1.14 (d, 3H). MS (EI) 191.1 (M+1).

reactant | tert-Butyl (3S)-3-methylpiperazine-1-carboxylate | 1.897 mol, 380.0 g | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | benzyl bromide | 2.09 mol, 248 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Triethylamine | 2.152 mol, 300.0 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 440 mL | C(C)#N | C2H3N
product | (2S)-1-Benzyl-2-methylpiperazine | 330 g, 91.4% | C(C1=CC=CC=C1)N1[C@H](CNCC1)C | C12H18N2
